### PR TITLE
[Merged by Bors] - feat(Combinatorics): definition and basic properties of Schnirelmann density

### PR DESCRIPTION
**Pull request by b-mehta**
Provide the definition of the Schnirelmann density, basic properties of it, and some simple useful calculations.

Co-authored-by: Yaël Dillies <yael.dillies@gmail.com>
Co-authored-by: Doga Can Sertbas <dogacan.sertbas@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/Schnirelmann.lean [hunk 1]
```diff
@@ -0,0 +1,247 @@
...
+-/
+lemma schnirelmannDensity_le_of_not_mem {k : ℕ} (hk : k ∉ A) :
+    schnirelmannDensity A ≤ 1 - 1 / k := by
+  rcases k.eq_zero_or_pos with rfl | hk'
+  · simpa using schnirelmannDensity_le_one
+  apply schnirelmannDensity_le_of_le k hk'.ne'
+  rw [one_sub_div (Nat.cast_pos.2 hk').ne']
+  apply div_le_div_of_le (Nat.cast_nonneg _)
+  rw [←Nat.cast_pred hk', Nat.cast_le]
+  suffices : (Ioc 0 k).filter (· ∈ A) ⊆ Ioo 0 k; exact (card_le_of_subset this).trans_eq (by simp)
```
Comment (hrmacbeth) [inline Mathlib/Combinatorics/Schnirelmann.lean:96]:
```suggestion
  gcongr
  rw [←Nat.cast_pred hk', Nat.cast_le]
  calc _ ≤ card (Ioo 0 k) := ?_
    _ = _ := by simp
  gcongr
```

File: Mathlib/Combinatorics/Schnirelmann.lean [hunk 2]
```diff
@@ -0,0 +1,247 @@
...
+
+/-- The Schnirelmann density of a set not containing `1` is `0`. -/
+lemma schnirelmannDensity_eq_zero_of_one_not_mem (h : 1 ∉ A) : schnirelmannDensity A = 0 :=
+  ((schnirelmannDensity_le_of_not_mem h).trans (by simp)).antisymm schnirelmannDensity_nonneg
+
+/-- The Schnirelmann density is increasing with the set. -/
+lemma schnirelmannDensity_le_of_subset {B : Set ℕ} [DecidablePred (· ∈ B)] (h : A ⊆ B) :
+    schnirelmannDensity A ≤ schnirelmannDensity B :=
+  ciInf_mono ⟨0, fun _ ⟨_, hx⟩ => hx ▸ by positivity⟩ fun _ => div_le_div_of_le (by positivity) <|
+    Nat.cast_le.2 <| card_le_of_subset <| monotone_filter_right _ h
```
Comment (hrmacbeth) [inline Mathlib/Combinatorics/Schnirelmann.lean:108]:
```suggestion
  ciInf_mono ⟨0, fun _ ⟨_, hx⟩ => hx ▸ by positivity⟩ fun _ => by
    gcongr; exact monotone_filter_right _ h
```

File: Mathlib/Combinatorics/Schnirelmann.lean [hunk 3]
```diff
@@ -0,0 +1,247 @@
...
+  intro ε hε
+  wlog hε₁ : ε ≤ 1 generalizing ε
+  · obtain ⟨n, hn, hn'⟩ := this 1 zero_lt_one le_rfl
+    exact ⟨n, hn, hn'.trans_le (le_of_not_le hε₁)⟩
+  let n : ℕ := ⌊A.card / ε⌋₊ + 1
+  have hn : 0 < n := Nat.succ_pos _
+  use n, hn
+  rw [div_lt_iff (Nat.cast_pos.2 hn), ←div_lt_iff' hε, Nat.cast_add_one]
+  exact (Nat.lt_floor_add_one _).trans_le' <| div_le_div_of_le hε.le <| Nat.cast_le.2 <|
+    card_le_of_subset <| by simp [subset_iff]
```
Comment (hrmacbeth) [inline Mathlib/Combinatorics/Schnirelmann.lean:190]:
```suggestion
  refine (Nat.lt_floor_add_one _).trans_le' ?_
  gcongr
  simp [subset_iff]
```

File: Mathlib/Combinatorics/Schnirelmann.lean [hunk 4]
```diff
@@ -0,0 +1,247 @@
...
+Note that if `m = 1`, this set is empty.
+-/
+lemma schnirelmannDensity_setOf_mod_eq_one {m : ℕ} (hm : m ≠ 1) :
+    schnirelmannDensity {n | n % m = 1} = 1 / m := by
+  rcases m.eq_zero_or_pos with rfl | hm'
+  · simp only [Nat.cast_zero, div_zero]
+    refine schnirelmannDensity_finite ?_
+    simp
+  apply le_antisymm (schnirelmannDensity_le_of_le m hm'.ne' _) _
+  · apply div_le_div_of_le (Nat.cast_nonneg _)
```
Comment (hrmacbeth) [inline Mathlib/Combinatorics/Schnirelmann.lean:217]:
```suggestion
  · gcongr
```

**Review by hrmacbeth — COMMENTED** [review]
A few uses of the new tactic `gcongr`, optional of course.  To use them you will need to mark `Finset.card_le_of_subset` with `@[gcongr]`, but that should be done in any case.

File: Mathlib/Combinatorics/Schnirelmann.lean (hunk 1 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/Schnirelmann.lean:96]: I originally tried many of these already, but they made the file slower to compile for me, and makes the proofs significantly more brittle, so I'm very hesitant to put them in (just like nonterminal `simp`s)!

File: Mathlib/Combinatorics/Schnirelmann.lean (hunk 2 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/Schnirelmann.lean:108]: This is a particular example I'm worried about when it comes to non-terminal `gcongr` - where adding new things to `gcongr`could produce errors here...

File: Mathlib/Combinatorics/Schnirelmann.lean (hunk 1 above)
Comment (hrmacbeth) [reply Mathlib/Combinatorics/Schnirelmann.lean:96]: Interesting, we could try to get data here ... in the mean time the equivalent of `simp only` would be to use patterns, `gcongr ?_ / _` and `gcongr card ?_`.  More worthwhile when you haven't already looked up the lemmas though.

Comment (hrmacbeth) [reply Mathlib/Combinatorics/Schnirelmann.lean:96]: In particular, I intended `gcongr` to be a mid-proof (rather than finishing) tactic more often than not, so if there is evidence of a slowdown, we have work to do.  I'm less worried about brittleness -- such changes ought to be easy to repair.

Comment (b-mehta) [reply Mathlib/Combinatorics/Schnirelmann.lean:96]: Ah the use of patterns would be nice, although as you say I already knew where these lemmas were! 
I'm not so sure they're easy to repair - particularly in the case where a congruence lemma is applied which goes too far, and it can be hard to figure out which step was unhelpful when repairing. Using patterns would help with this though!

File: Mathlib/Combinatorics/Schnirelmann.lean [hunk 5]
```diff
@@ -0,0 +1,247 @@
...
+
+/-- The Schnirelmann density is unaffected by removing `0`. -/
+lemma schnirelmannDensity_diff_singleton_zero [DecidablePred (· ∈ A \ {0})] :
+    schnirelmannDensity (A \ {0}) = schnirelmannDensity A :=
+  by rw [schnirelmannDensity, schnirelmannDensity]; congr; ext ⟨n, hn⟩; congr 3; ext x; aesop
+
+/--
+If the Schnirelmann density is `0`, there is a positive natural for which
+`|A ∩ {1, ..., n}| / n < ε`, for any positive `ε`.
+Note this cannot be improved to `∃ᶠ n : ℕ in at_top`, as can be seen by `A = {1}`.
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Schnirelmann.lean:164]:
```suggestion
Note this cannot be improved to `∃ᶠ n : ℕ in at_top`, as can be seen by `A = {1}ᶜ`.
```
right?

File: Mathlib/Combinatorics/Schnirelmann.lean [hunk 6]
```diff
@@ -0,0 +1,247 @@
...
+lemma schnirelmannDensity_setOf_prime : schnirelmannDensity (setOf Nat.Prime) = 0 :=
+  schnirelmannDensity_eq_zero_of_one_not_mem (by simp)
+
+/--
+The Schnirelmann density of the set of naturals which are `1 mod m` is `1 / m`, for any `m ≠ 1`.
+
+Note that if `m = 1`, this set is empty.
+-/
+lemma schnirelmannDensity_setOf_mod_eq_one {m : ℕ} (hm : m ≠ 1) :
+    schnirelmannDensity {n | n % m = 1} = 1 / m := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Schnirelmann.lean:211]: Maybe better written using `Nat.ModEq`? Then it's also true for `m = 1`.

Comment (YaelDillies) [inline Mathlib/Combinatorics/Schnirelmann.lean:211]:
```suggestion
    schnirelmannDensity {n | n % m = 1} = m⁻¹ := by
```

File: Mathlib/Combinatorics/Schnirelmann.lean [hunk 7]
```diff
@@ -0,0 +1,247 @@
...
+
+lemma schnirelmannDensity_le_one : schnirelmannDensity A ≤ 1 :=
+  schnirelmannDensity_le_of_le 1 one_ne_zero <|
+    by rw [Nat.cast_one, div_one, Nat.cast_le_one]; exact card_filter_le _ _
+
+/--
+If `k` is omitted from the set, its Schnirelmann density is upper bounded by `1 - 1 / k`.
+-/
+lemma schnirelmannDensity_le_of_not_mem {k : ℕ} (hk : k ∉ A) :
+    schnirelmannDensity A ≤ 1 - 1 / k := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Schnirelmann.lean:89]:
```suggestion
    schnirelmannDensity A ≤ 1 - k⁻¹ := by
```

File: Mathlib/Combinatorics/Schnirelmann.lean (hunk 5 above)
Comment (sgouezel) [reply Mathlib/Combinatorics/Schnirelmann.lean:164]: Also, `at_top` should be `atTop`...

File: Mathlib/Combinatorics/Schnirelmann.lean (hunk 6 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/Schnirelmann.lean]: I added the ModEq version as well, but kept this version since I think both can be useful.

File: Mathlib/Combinatorics/Schnirelmann.lean (hunk 5 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/Schnirelmann.lean]: Thanks both!

File: Mathlib/Combinatorics/Schnirelmann.lean [hunk 8]
```diff
@@ -50,6 +51,7 @@ section
 
 variable {A : Set ℕ} [DecidablePred (· ∈ A)]
 
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Schnirelmann.lean:54]: Hmm, this one is weird
```suggestion
```

File: Mathlib/Combinatorics/Schnirelmann.lean [hunk 9]
```diff
@@ -148,20 +150,28 @@ lemma schnirelmannDensity_le_iff_forall {x : ℝ} :
   rw [le_iff_forall_pos_lt_add]
   simp only [schnirelmannDensity_lt_iff]
 
+lemma schnirelmannDensity_congr' {B : Set ℕ} [DecidablePred (· ∈ B)]
+    (h : ∀ n > 0, n ∈ A ↔ n ∈ B) : schnirelmannDensity A = schnirelmannDensity B :=
+  by rw [schnirelmannDensity, schnirelmannDensity]; congr; ext ⟨n, hn⟩; congr 3; ext x; aesop
+
 /-- The Schnirelmann density is unaffected by adding `0`. -/
 lemma schnirelmannDensity_insert_zero [DecidablePred (· ∈ insert 0 A)] :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Schnirelmann.lean:158]:
```suggestion
@[simp] lemma schnirelmannDensity_insert_zero [DecidablePred (· ∈ insert 0 A)] :
```

File: Mathlib/Combinatorics/Schnirelmann.lean [hunk 10]
```diff
@@ -0,0 +1,267 @@
...
+  simp [hm'.ne']
+
+lemma schnirelmannDensity_setOf_modeq_one {m : ℕ} :
+    schnirelmannDensity {n | n ≡ 1 [MOD m]} = (m⁻¹ : ℝ) := by
+  rcases eq_or_ne m 1 with rfl | hm
+  · simp [Nat.modEq_one]
+  rw [←schnirelmannDensity_setOf_mod_eq_one hm]
+  apply schnirelmannDensity_congr
+  ext n
+  simp only [Set.mem_setOf_eq, Nat.ModEq, one_mod_of_ne_one hm]
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Schnirelmann.lean:262]:
```suggestion
  simp only [Set.mem_setOf_eq, Nat.ModEq, Nat.one_mod_of_ne_one hm]
```

File: Mathlib/Combinatorics/Schnirelmann.lean [hunk 11]
```diff
@@ -0,0 +1,266 @@
...
+* Simple bounds on the Schnirelmann density, that it is between 0 and 1 are given in
+  `schnirelmannDensity_nonneg` and `schnirelmannDensity_le_one`.
+* `schnirelmannDensity_le_of_not_mem`: If `k ∉ A`, the density can be easily upper-bounded by
+  `1 - k⁻¹`
+
+## Implementation notes
+
+Despite the definition being noncomputable, we include a decidable instance argument, since this
+makes the definition easier to use in explicit cases.
+Further, we use Finset.Ioc rather than a set intersection since the set is finite by construction,
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Schnirelmann.lean:28]:
```suggestion
Further, we use `Finset.Ioc` rather than a set intersection since the set is finite by construction,
```

File: Mathlib/Combinatorics/Schnirelmann.lean [hunk 12]
```diff
@@ -0,0 +1,266 @@
...
+## TODO
+* Give other calculations of the density, for example powers and their sumsets.
+* Define other densities like the lower and upper asymptotic density, and the natural density,
+  and show how these relate to the Schnirelmann density.
+* Show that if the sum of two densities is at least one, the sumset covers the positive naturals.
+* Prove Schnirelmann's theorem and Mann's theorem on the subadditivity of this density.
+
+## References
+
+Ruzsa, Imre. (2009). Sumsets and structure. Combinatorial Number Theory and Additive Group Theory.
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Schnirelmann.lean:40]: Could you add that to `reference.bib`?
```
@Article{         ruzsa2009,
  author        = {Ruzsa, Imre},
  title         = {Sumsets and structure},
  journal       = {Combinatorial Number Theory and Additive Group Theory},
  year          = {2009},
  month         = {01}
}
```

Comment (jcommelin) [reply Mathlib/Combinatorics/Schnirelmann.lean:40]: :ping_pong:

**Comment by jcommelin** [comment]
bors d+

**Comment by jcommelin** [comment]
bors d=YaelDillies

**Comment by YaelDillies** [comment]
bors merge
